US05807866
Synthesis of (2S,3R)-(-)-3-(3-bromophenyl)-3-(7-benzyloxyindolin-1-yl)propane-1,2-diol
Magnesium perchlorate (16.63 g, 74.52 mmol) was added in portions to a magnetically stirred solution of (2S-trans)-3-(3-bromophenyl)oxiranemethanol (16.32 g, 71.26 mmol) in dry acetonitrile (100 ml) at 5° C. under nitrogen . After stirring for 10 min. all of the magnesium salts had dissolved and the resulting intense yellow solution was treated with 7-benzyloxyindoline (16.77 g, 74.52 mmol) in acetonitrile (30.0 ml) dropwise at 0° C. (ice-H2O). The dark brown solution was stirred at 25° C. for 20 h, quenched with saturated aqueous NaHCO3 (300 ml), extracted with ethyl acetate (3×200 ml), the combined organic phases were washed with brine (3×200 ml), dried (Na2SO4) and the solvent removed in vacuo to provide a yellow/brown gum. Column chromatography (ethyl acetate--light petroleum (b.p. 40°-60° C.), 3:7) provided the title compound (27.37 g, 87%) as a grey/green oil which crystallised on standing. Recrystallised from diethyl ether at -20° C. as white crystals, m.p. 61°-66° C. (Found: C, 63.51; H, 5.78; N, 2.84. C24H24BrNO3 requires C, 63.44; H, 5.32; N, 3.08%); [α]D25 -311.1 (c=0.009 gml-1, CHCl3); νmax (nujol)/cm-1 3353.0 (br. OH), 1584.0, 1565.0; δH (270 MHz) 2.27 (1H, bs, OH); 2.66 (3H, m, OH, 2×indoline 2-H); 3.10 (1H, m, indoline 3-H); 3.30 (1H, m, indoline 3-H); 3.85 (2H, dq, 2×1-H, 2J1,1 =11.5, 3J1,2 =4.0 Hz); 4.22 (1H, m, 2-H); 5.16 (2H, s, CH2Ph); 5.38 (1H, d, 3-H, 3J3,2 =10.2 Hz); 6.65-7.49 (12H, m, 12 ArH). δC (67.8 MHz) 29.2 (indoline 2-C); 46.5 (indoline 3-C); 61.7 (3-C); 64.8 (1-C); 69.9 (C-2); 70.9 (CH2Ph); 112.2 (indoline 6-C); 118.1 (indoline 5-C); 120.3 (indoline 4-C); 122.4 (3'-C); 136.4 (1'-C); 138.5 (indoline 7a-C); 139.5 (benzyl ipso-C); 145.0 (indoline 7-C). The remaining signals lie between 127.5-136.4 ppm and could not be assigned with any certainty; m/z 455.3, 453.3 (0.58, 0.74, M+), 394.2, 392.2 (7.81, 7.90), 304.1, 302.1 (4.80, 9.32), 225.2 (8.35), 171.0, 169.0 (5.29, 5.79), 134.1 (34.82), 118.1 (1.35), 59.1 (100).

reactant | Magnesium perchlorate | 74.52 mmol, 16.63 g | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | (2S-trans)-3-(3-bromophenyl)oxiranemethanol | 71.26 mmol, 16.32 g | BrC=1C=C(C=CC1)[C@H]1[C@@H](O1)CO | C9H9BrO2
reactant | 7-benzyloxyindoline | 74.52 mmol, 16.77 g | C(C1=CC=CC=C1)OC=1C=CC=C2CCNC12 | C15H15NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30.0 ml | C(C)#N | C2H3N
product | (2S,3R)-(-)-3-(3-bromophenyl)-3-(7-benzyloxyindolin-1-yl)propane-1,2-diol | 27.37 g, 87% | BrC=1C=C(C=CC1)[C@H]([C@@H](CO)O)N1CCC2=CC=CC(=C12)OCC1=CC=CC=C1 | C24H24BrNO3
